US07074796B2
4-Chloro-1-(2,3-dihydro-1H-indol-1-yl)butan-1-one
from 2,3-dihydro-1H-indole and 4-chlorobutanoyl chloride

reactant | 2,3-dihydro-1H-indole | N1CCC2=CC=CC=C12 | C8H9N
reactant | 4-chlorobutanoyl chloride | ClCCCC(=O)Cl | C4H6Cl2O
product | 4-Chloro-1-(2,3-dihydro-1H-indol-1-yl)butan-1-one | ClCCCC(=O)N1CCC2=CC=CC=C12 | C12H14ClNO
